US09145391B2
4-Methyl-N6′-(piperidin-4-yl)-N6-(4-(trifluoromethyl)pyridin-2-yl)-2,3′-bipyridine-6,6′-diamine (30 mg, 0.07 mmol) was dissolved in DMF (500 μL). The solution was then treated with DIEA (24 μL, 0.14 mmol), 6-fluoroquinoline-3-carboxylic acid (20 mg. 0.11 mmol), and 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphorinane-2,4,6-trioxide (42 μL, 0.07 mmol). The reaction was warmed to 40° C. and stirred for 16 hours. The reaction was allowed to cool to room temperature: The mixture was diluted with DMSO (1.0 mL) and purified by mass-triggered reverse phase high pressure liquid chromatography, eleuting with a 1% ammonium hydroxide buffered water/acetonitrile gradient over a Waters X-Bridge C-18 column, to afford (6-fluoroquinolin-3-yl)(4-(4-methyl-6-(4-(trifluoromethyl)pyridin-2-ylamino)-2,3′-bipyridin-6′-ylamino)piperidin-1-yl)methanone. MS ESI calcd. for C32H28F4N7O [M+H]+ 602. found 602. 1H NMR (600 MHz, DMSO-d6) δ 10.05 (s, 1H), 8.87 (d, J=2.0 Hz, 1H), 8.66 (d, J=2.1 Hz, 1H), 8.60 (s, 1H), 8.44 (d, J=5.2 Hz, 1H), 8.42 (d, J=1.8 Hz, 1H), 8.11 (dd, J=5.4, 9.2 Hz, 1H), 8.00 (dd, J=2.4, 8.8 Hz, 1H), 7.86 (dd, J=2.9, 9.3 Hz, 1H), 7.73 (m, 1H), 7.20 (s, 1H), 7.14 (d, J=5.1 Hz, 1H), 7.07 (s, 1H), 6.87 (d, J=7.6 Hz, 1H), 6.56 (d, J=8.8 Hz, 1H), 4.37 (s, 1H), 4.06 (s, 1H), 3.32 (s, 1H), 2.47-2.45 (m, 1H), 2.27 (s, 3H), 2.04 (s, 1H), 1.90 (s, 1H), 1.49 (s, 1H), 1.42 (s, 2H). rhSyk IC50=8 nM.

reactant | 4-Methyl-N6′-(piperidin-4-yl)-N6-(4-(trifluoromethyl)pyridin-2-yl)-2,3′-bipyridine-6,6′-diamine | 0.07 mmol, 30 mg | CC1=CC(=NC(=C1)NC1=NC=CC(=C1)C(F)(F)F)C=1C=NC(=CC1)NC1CCNCC1 | C22H23F3N6
reactant | DIEA | 0.14 mmol, 24 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-fluoroquinoline-3-carboxylic acid | 0.11 mmol, 20 mg | FC=1C=C2C=C(C=NC2=CC1)C(=O)O | C10H6FNO2
reactant | 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphorinane-2,4,6-trioxide | 0.07 mmol, 42 μL | C(CC)P1(OP(OP(O1)(CCC)=O)(CCC)=O)=O | C9H21O6P3
solvent | DMF | 500 μL | CN(C)C=O | C3H7NO
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
product | (6-fluoroquinolin-3-yl)(4-(4-methyl-6-(4-(trifluoromethyl)pyridin-2-ylamino)-2,3′-bipyridin-6′-ylamino)piperidin-1-yl)methanone | FC=1C=C2C=C(C=NC2=CC1)C(=O)N1CCC(CC1)NC1=CC=C(C=N1)C1=NC(=CC(=C1)C)NC1=NC=CC(=C1)C(F)(F)F | C32H27F4N7O
